US07868177B2
To a slurry of 4-(2-(4-aminophenoxy)pyridin-3-yl)pyrimidin-2-amine (0.150 g, 0.54 mmol) and 4-methyl-3-(methylsulfonyl)-5-phenyl-4H-1,2,4-triazole (0.14 g, 0.59 mmol) in 0.6 mL THF was added lithium bis(trimethylsilyl) amide, 1.0 m solution in tetrahydrofuran (1.1 ml, 1.1 mmol). The reaction became a solid, and was sealed and heated to 70° C., at which point it became a heterogeneous brown mixture that could be stirred. After 2 h, the reaction did not appear to make further progress. The reaction was quenched with sat'd aqueous NH4Cl and partitioned between DCM and water. The aqueous layer was extracted 1×DCM. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The material was absorbed onto silica gel from MeOH/DCM and dried. The residue was purified by silica gel chromatography, 40 g (0-100% 90/10 DCM/MeOH in MC) to give 4-(2-(4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine as a white solid. MS m/z=437 [M+H]+. Calc'd for C24H20N8O: 436.5.

reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)pyrimidin-2-amine | 0.54 mmol, 0.150 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)N)C=C1 | C15H13N5O
reactant | 4-methyl-3-(methylsulfonyl)-5-phenyl-4H-1,2,4-triazole | 0.59 mmol, 0.14 g | CN1C(=NN=C1C1=CC=CC=C1)S(=O)(=O)C | C10H11N3O2S
reactant | lithium bis(trimethylsilyl) amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 1.1 mmol, 1.1 ml | O1CCCC1 | C4H8O
product | 4-(2-(4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CN1C(=NN=C1C1=CC=CC=C1)NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)N)C=C1 | C24H20N8O
